US04329347
6-[4-(3,4-Dichlorophenyl-mercapto)-butoxy]-3,4-dihydro-carbostyril
Prepared analogous to Example 1 from 6-(4-chloro-butoxy)-3,4-dihydro-carbostyril (m.p. 147°-148° C.) and 3,4-dichloro-thiophenol.

reactant | 6-(4-chloro-butoxy)-3,4-dihydro-carbostyril | ClCCCCOC=1C=C2CCC(NC2=CC1)=O | C13H16ClNO2
reactant | 3,4-dichloro-thiophenol | ClC=1C=C(C=CC1Cl)S | C6H4Cl2S
product | 6-[4-(3,4-Dichlorophenyl-mercapto)-butoxy]-3,4-dihydro-carbostyril | ClC=1C=C(C=CC1Cl)SCCCCOC=1C=C2CCC(NC2=CC1)=O | C19H19Cl2NO2S
